US06652834B2
C) N-[(Phenylmethoxy)carbonyl]glycine [2-(dioctadecylamino)-2-oxoethyl]ester
A solution of DCC (2.1 g; 10.3 mmol) in CHCl3 (50 mL) was added dropwise to a solution of 2-hydroxy-N,N-dioctadecylacetamide (5 g; 8.6 mmol) and Z-glycine (2 g; 9.5 mmol) in CHCl3 (250 mL). DMAP (0.1 g; 0.9 mmol) was added to the resulting solution. After 1 h the reaction mixture was filtered and the solvent was evaporated. The crude was purified by flash chromatography (n-Hexane/EtOAc=7/3 (v/v)) to give the desired compound (5.6 g; 7.3 mmol). Yield 84%. HPLC: 99% (area %). K.F.: <0.1%. The 13C-NMR, MS and IR spectra were consistent with the structure.

reactant | DCC | 10.3 mmol, 2.1 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 2-hydroxy-N,N-dioctadecylacetamide | 8.6 mmol, 5 g | OCC(=O)N(CCCCCCCCCCCCCCCCCC)CCCCCCCCCCCCCCCCCC | C38H77NO2
reactant | Z-glycine | 9.5 mmol, 2 g | C1=CC=C(C=C1)COC(=O)NCC(=O)O | C10H11NO4
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | CHCl3 | 250 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | DMAP | 0.9 mmol, 0.1 g | CN(C)C=1C=CN=CC1 | C7H10N2
product | N-[(Phenylmethoxy)carbonyl]glycine [2-(dioctadecylamino)-2-oxoethyl]ester | 7.3 mmol, 5.6 g, Yield 84% | C(CCCCCCCCCCCCCCCCC)N(C(COC(CNC(=O)OCC1=CC=CC=C1)=O)=O)CCCCCCCCCCCCCCCCCC | C48H86N2O5
